US04089974
4,4'-[5-Carboxy-1,3-phenylenebis(carbonylimino)]-diphthalic acid pentasodium salt
A 2.5 g portion of 4-amino phthalic acid stirred in 100 ml of water is neutralized to pH 7.2 with sodium hydroxide then 1.47 g of sodium carbonate is added. To this solution is added dropwise 1.21 g of 1,3,5-benzenetricarboxylic acid chloride with vigorous stirring. Stirring is continued for 18 hours, then the reaction mixture is concentrated, dissolved in 60 ml of water and acidified with hydrochloric acid. The precipitate is filtered and washed with ethanol and ether to yield 2.8 g of product. This product is dissolved in 50 ml of water, is neutralized and fractionally precipitated with ethanol 6 times. The final crop, 523 mg, is identified as the product of the Example.

reactant | 4-amino phthalic acid | NC=1C=C(C(C(=O)O)=CC1)C(=O)O | C8H7NO4
reactant | sodium hydroxide | [OH-].[Na+]
reactant | sodium carbonate | 1.47 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 1,3,5-benzenetricarboxylic acid chloride | 1.21 g | C1(=CC(=CC(=C1)C(=O)Cl)C(=O)Cl)C(=O)Cl | C9H3Cl3O3
solvent | water | 100 ml | O | H2O
product | 4,4'-[5-Carboxy-1,3-phenylenebis(carbonylimino)]-diphthalic acid pentasodium salt | 2.8 g | [Na+].[Na+].[Na+].[Na+].[Na+].C(=O)(O)C=1C=C(C=C(C1)C(=O)NC=1C=C(C(C(=O)[O-])=CC1)C(=O)[O-])C(=O)NC=1C=C(C(C(=O)[O-])=CC1)C(=O)[O-] | InChI=1S/C25H16N2O12.5Na/c28-19(26-13-1-3-15(22(32)33)17(8-13)24(36)37)10-5-11(7-12(6-10)21(30)31)20(29)27-14-2-4-16(23(34)35)18(9-14)25(38)39;;;;;/h1-9H,(H,26,28)(H,27,29)(H,30,31)(H,32,33)(H,34,35)(H,36,37)(H,38,39);;;;;/q;5*+1/p-4
